US08603999B2
Stearyl alcohol (2.7 g, 0.01 mol), and triphosgene (0.99 g, 0.0067 mol) were dissolved in 20 ml methylene chloride, stirred and cooled to 10-15° C. Anhydrous pyridine (0.8 g of, 0.02 mol) was added dropwise into the pre-cooled solution over a 1 hr period. The reaction mixture was stirred for an additional 1 h, then heated in a water bath at 65° C. for 15 min until all the methylene chloride evaporated. The residue was washed 3 times with cold water, dried over Na2SO4 and evaporated to give stearyl chloroformate (1.88 g, 83% yield), also known as octadecyl chloroformate.

reactant | Stearyl alcohol | 0.01 mol, 2.7 g | C(CCCCCCCCCCCCCCCCC)O | C18H38O
reactant | triphosgene | 0.0067 mol, 0.99 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | pyridine | 0.02 mol, 0.8 g | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | stearyl chloroformate | 1.88 g, 83% yield | ClC(=O)OCCCCCCCCCCCCCCCCCC | C19H37ClO2
